US06828460B2
(±)-3-(2,4-Dihydroxyphenyl)cyclohexanone
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone (35 mg) in methanol (4 ml) containing acidic ion exchange resin (300 mg) was stirred at 50° C. for 6 hr, and then at ambient temperature for 16 hr. The mixture was evaporated in vacuo and the residue was redissolved in acetone (4 ml) containing water (2 drops) and stirred at 50° C. for 8 hr, then at ambient temperature for 64 hr. The mixture was filtered through celite and purified by flash column chromatography (SiO2, petroleum ether/ethyl acetate 1:1 v/v) to furnish the title compound as a white solid containing an equilibrium mixture of cyclized and uncyclized forms (31 mg, 76%). δH (DMSO) 1.1-2.3 (8H, overlapping m), 3.0 (1H, m), 6.08 (0.5H, bs), 6.16 (1H, bd), 6.25 (0.5H, bs), 6.53 (0.5H, bs), 6.75 (0.5H, d), 6.89 (0.5H, b), 8.98 (0.5H, bs), 9.02 (0.5H, bs), 9.17 (0.5H, bs); m/z (ES−) 205 (M−H)−.

reactant | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone | 35 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=O | C16H22O5
solvent | methanol | 4 ml | CO | CH4O
product | (±)-3-(2,4-Dihydroxyphenyl)cyclohexanone | OC1=C(C=CC(=C1)O)C1CC(CCC1)=O | C12H14O3
